US04794109
(d) 2-[(3S,4R)-3-[(1R)-1-allyloxycarbonyloxyethyl]-4-[5-(tetrazol-1-yl)-pentanoylthio]-2-oxo-azetidin-1-yl]-2-triphenylphosphoranylideneacetic acid allyl ester
1.74 g of the silver salt of 2-[(3S,4R)-3-[(1R)-1-allyloxycarbonyloxyethyl]-4-mercapto-2-oxo-azetidin-1-yl]-2-triphenylphosphoranylideneacetic acid allyl ester are dissolved in 30 ml of methylene chloride, and, at 0°, 0.41 ml of pyridine, 50 mg of 4-dimethylaminopyridine and then, dropwise, a solution of 0.87 g of 5-(tetrazol-1-yl)-valeric acid chloride in 15 ml of methylene chloride are added. After stirring for 30 minutes at 0°, the solid material is filtered off over Hyflo and the filtrate is washed with aqueous sodium bicarbonate solution and then with brine. After drying over MgSO4, the solution is concentrated by evaporation. The residue is purified by chromatography over silica gel (eluant toluene/ethyl acetate: 9:1 to 1:1). TLC (ethyl acetate) Rf =0.33; IR (CH2Cl2): 1750, 1690, 1620 cm-1.

reactant | 2-[(3S,4R)-3-[(1R)-1-allyloxycarbonyloxyethyl]-4-mercapto-2-oxo-azetidin-1-yl]-2-triphenylphosphoranylideneacetic acid allyl ester | C(C=C)OC(C(=P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)N1C([C@@H]([C@H]1S)[C@@H](C)OC(=O)OCC=C)=O)=O | C32H32NO6PS
reactant | pyridine | 0.41 ml | N1=CC=CC=C1 | C5H5N
reactant | 5-(tetrazol-1-yl)-valeric acid chloride | 0.87 g | N1(N=NN=C1)CCCCC(=O)Cl | C6H9ClN4O
solvent | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 50 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | methylene chloride | 15 ml | C(Cl)Cl | CH2Cl2
catalyst | silver | 1.74 g | [Ag] | Ag
product | 2-[(3S,4R)-3-[(1R)-1-allyloxycarbonyloxyethyl]-4-[5-(tetrazol-1-yl)-pentanoylthio]-2-oxo-azetidin-1-yl]-2-triphenylphosphoranylideneacetic acid allyl ester | C(C=C)OC(C(=P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)N1C([C@@H]([C@H]1SC(CCCCN1N=NN=C1)=O)[C@@H](C)OC(=O)OCC=C)=O)=O | C38H40N5O7PS
